US06599902B2
Synthesis of 2-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (2-Diethylamino-ethyl)-amide
2-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid was coupled with N,N-diethylethylenediamine to give the titled compound.

reactant | 2-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=CC1C(=O)O)C | C22H16Cl2N2O5S
reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
product | 2-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (2-Diethylamino-ethyl)-amide | C(C)N(CCNC(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)CC | C28H30Cl2N4O4S
